US06653313B2
To a solution of 4.87 g of 3-[2-([2-(diethylamino)ethoxy]methyl]phenyl]-2-propanoic acid containing 61 mol % (8.9 wt %) of acetonitrile in 25 mL of anhydrous DMF (200 mL of flask) was added 2.65 g of 1,1′-carbonyldiimidazole portionwise at r.t. (CAUTION; Gas (CO2) evolution!!). The reaction solution was maintained at. r.t. for 30 min and at 55° C. for 1 h under nitrogen, then cooled to room temperature. To the solution were added 1.71 g of MgCl2 portionwise carefully (CAUTION; Exothermic!!) and 2.81 g of potassium methyl malonate at room temperature. The reaction mixture was stirred at 55° C. for 14 h under nitrogen atmosphere and cooled to room temperature. To the mixture was added aqueous solution of tri-sodium citrate (this solution was prepared by dissolving 13.2 g of tri-sodium citrate into 52.8 mL of H2O) and 30 mL of 1:1 mixture of EtOAc—hexane. The resulting mixture was stirred vigorously at r.t. for 2 h, then layers were separated. Aqueous layer was extracted with 1:1 mixture of EtOAc—hexane (20 mL×2). The combined organic layer was washed with H2O (15 mL×2), then dried over Na2SO4. After the filtration through paper filter, the filtrate was concentrated under reduced pressure to give 5.02 g of methyl-5-[2-[[2-(diethylamino)ethoxy]methyl]phenyl]-3-oxopentanoate (91% yield) as a brown oil. The purity of the product was determined to be 97% by HPLC analysis.

reactant | 1,1′-carbonyldiimidazole | 2.65 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | CO2 | C(=O)=O | CO2
reactant | MgCl2 | 1.71 g | [Mg+2].[Cl-].[Cl-]
reactant | potassium methyl malonate | 2.81 g | C(CC(=O)[O-])(=O)OC.[K+]
reactant | tri-sodium citrate | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-].[Na+].[Na+].[Na+]
reactant | tri-sodium citrate | 13.2 g | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-].[Na+].[Na+].[Na+]
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | H2O | 52.8 mL | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | methyl-5-[2-[[2-(diethylamino)ethoxy]methyl]phenyl]-3-oxopentanoate | 5.02 g, 91% yield | COC(CC(CCC1=C(C=CC=C1)COCCN(CC)CC)=O)=O | C19H29NO4
